US05455072
The synthesis of 3-diamantanol (22) from diamantane follows Gund et al, J. Org. Chem., 39, 2987 (1974), incorporated herein by reference. To diamantane (2 g), prepared as in Example 3, Procedure 6, is added 96.6% sulfuric acid (100 ml); the reaction mixture is then heated for four hours at 75° C. with vigorous stirring. Stirring is continued at room temperature for one additional hour. The black reaction mixture is poured over ice and steam distilled. The steam distillate is extracted with ether, and the combined ether extracts are washed with water and dried over MgSO4. Evaporation of the solvent leaves 1.4 g (70% yield) of crude diamantanone. The product may be further purified by chromatography on alumina. The second fraction, eluted with benzene-ether (1:1) contains pure diamantanone (0.8 g, 37%). Recrystallization from petroleum ether gives white crystals, mp 249°-250° C.; IR (Nujol oil) 1745, 1720, 1295, 1245, 1045 cm-1.

reactant | diamantane | C1C2CC3C4C1C5CC(C4)CC3C5C2 | C14H20
reactant | diamantane | 2 g | C1C2CC3C4C1C5CC(C4)CC3C5C2 | C14H20
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | diamantanone | 1.4 g, 70% yield | C1C2CC3C4C1C5CC(C4)C(=O)C3C5C2 | C14H18O
